US06720320B2
5-(4-hydroxybenzo(b)furan-2-yl)-3-methylisoxazole
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 5-(4-methoxybenzo(b)furan-2-yl)-3-methylisoxazole (3.0 g) and boron tribromide (7.6 ml), the title compound (2.6 g) was obtained as pale-yellow crystals.

reactant | 5-(4-methoxybenzo(b)furan-2-yl)-3-methylisoxazole | 3.0 g | COC1=CC=CC=2OC(=CC21)C2=CC(=NO2)C | C13H11NO3
reactant | boron tribromide | 7.6 ml | B(Br)(Br)Br | BBr3
product | 5-(4-hydroxybenzo(b)furan-2-yl)-3-methylisoxazole | 2.6 g | OC1=CC=CC=2OC(=CC21)C2=CC(=NO2)C | C12H9NO3
